US08012966B2
A stirred solution of 5-(2-diethylamino-ethyl)-2-(5-fluoro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-methyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one (150 mg, 0.366 mmol) in acetic acid (3.5 ml) was cooled to 15° C. in an ice-water bath. The mixture was added with lead acetate (130 mg, 0.293 mmol) and stirred for 2.5 hours at room temperature. The mixture was added with 1N aqueous sodium hydroxide solution (60 ml) and extracted with a 5 to 1 solvent mixture of dichloromethane and methanol (40 ml×4). The extracts were combined, washed by brine, dried over anhydrous sodium sulfate, concentrated under reduced pressure and purified by silica gel column chromatography to give 5-(2-diethylamino-ethyl)-2-(5-fluoro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-methyl-1,5-dihydro-pyrrolo[3,2-c]pyridine-4-one (32 mg) as a yellow solid.

reactant | 5-(2-diethylamino-ethyl)-2-(5-fluoro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-methyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one | 0.366 mmol, 150 mg | C(C)N(CCN1C(C2=C(CC1)NC(=C2C)C=C2C(NC1=CC=C(C=C21)F)=O)=O)CC | C23H27FN4O2
reactant | lead acetate | 0.293 mmol, 130 mg | C(C)(=O)[O-].[Pb+2].C(C)(=O)[O-]
reactant | sodium hydroxide | 1N, 60 ml | [OH-].[Na+]
solvent | acetic acid | 3.5 ml | C(C)(=O)O | C2H4O2
product | 5-(2-diethylamino-ethyl)-2-(5-fluoro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-methyl-1,5-dihydro-pyrrolo[3,2-c]pyridine-4-one | 32 mg | C(C)N(CCN1C(C2=C(C=C1)NC(=C2C)C=C2C(NC1=CC=C(C=C21)F)=O)=O)CC | C23H25FN4O2
